data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,704,"C[S+:1](C)Cl.O=C1CCC(=O)[N-:2]1|(2, 1)"
train,pmechdb_split_0,0,6813,"CC12CC[C:1](=[O+:2]CC[OH:3])CC1CCC2=O.O.O=C([O-])C(=O)O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9087,"CN1C(=O)C2=CC=CN2C=C1CC[CH2:1][Cl:2].O=C1C2=C(C=CC=C2)C(=O)[N-:3]1.[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6519,"CCC1CC(SC)C([NH2+:1][H:2])CC1CCC1=CC=CC=C1.CSC.F[B-](F)(F)F.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3378,"CC1=CC=CC(C)=[NH+]1.C[Si:1](C)(C)OS(=O)(=O)C(F)(F)F.O=C1CCC2(OC3=CC=CC4=CC=CC(=C43)O2)C2=CC=CC([O-:2])=C12|(2, 1)"
train,pmechdb_split_0,0,4274,"CC1=CC=C(S(=O)(=O)[O-])C=C1.C[C:1]1(C2=CC=CC=C2)CCC[OH+:2]1|((1, 2), 2)"
train,pmechdb_split_0,0,9390,"CS(=O)(=O)O[Si:1](C)(C)C.[I-:2]|(2, 1)"
train,pmechdb_split_0,0,9161,"OCC1OC([O:1][H:2])C(O)C(O)C1O.O[C:3](=[O:4])[O-:5].[Na+]|(5, 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3090,"C=C(C)C1OC2(C)CCC3C(=C2C[C:1]1([H:2])[O:3][I+:4]1(OC(C)=O)OC(=O)C2=C1C=CC=C2)CCC1COC(=O)C13C.CC(=O)O.CC(=O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9076,"C[S:1](=[OH+:2])[NH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6576,"C=CCC[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1562,"CC[O:1][C:2]#[C:3]C(O)C(C)(C)C[O:4][H:5]|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5027,"CCO[C+:1](C(F)(F)C(F)(F)F)[CH:2]([O][Al-]([CH3])([CH3])[CH3])[CH:3]1CCCCC1|((2, 3), 1)"
train,pmechdb_split_0,0,10328,"C=[O+:1][H:2].CC(O[Si-](C)(C)(C)Cl)=[NH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6793,"CO[P+:1](C)(OC)[O:2][CH3:3].[I-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,9497,"C=C[C:1](OCC)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8116,"CC[O-:1].CN(C)C(=O)C=C(CC1=CC=CC=C1)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,798,"CCN(CC)C(O)=CC[S+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1329,"C[C:1](C)=[OH+:2].C[C:3](=[CH2:4])[OH:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7341,"C1=CC=[N:1]C=C1.CC(CC[O+:2](S(=O)([O-])(OS(=O)(=O)C(F)(F)F)C(F)(F)F)[H:3])OS(=O)(=O)C(F)(F)F|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1684,"COCC[O:1]COC(C)CC=CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C.[Cl][Ti:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,496,"CC1([O-:1])[NH2+]C(CC2=CC=CC=C2)C(=O)NC2=C1C=CC=C2.CC[N+:2](CC)(CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10058,"COC1=[O+][Li-:1][N+:2](C(C)C)(C(C)C)C2CCCC12.[Br-]|((1, 2), 2)"
train,pmechdb_split_0,0,9276,"Br[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,7859,"C1=CC=[NH+]C=C1.CC1=CC=C([S:1](=O)(ON=C(C)C2=CN=CC=C2)([O-:2])[Cl:3])C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2144,"C[C:1](C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1971,"CCCC1=CC=CC([O+](C)[B:1](Br)Br)=C1C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,3012,"CC(O)(C1=C(F)C=CC=C1)[CH:1]([H:2])[C:3](C1=C(F)C=CC=C1)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9613,"CC[O:1][C:2](C)([O][Na])[O-:3].[OH2+][Na]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6144,"C1=CC2=C(C=C1)C1CC2C2(CC2)[CH+:1]1.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,1987,"CCCC.C[Si](C)(C)[C-:1]1SCCCS1.[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,1479,"CCO.CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)(C#[N:1])C1CC(C)=O.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9768,"CC[O:1]C(O)(CCC(=O)NC)OC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2133,"C=CC(=O)COC(C)=O.CC1=C(CCO)S[C-:1]=[N+]1CC1=CC=CC=C1.CC[NH+](CC)CC.FC1=CC=C([CH:2]=[O:3])C=C1.[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5915,"CC[C:1](CCC1CCCCC1)(CC(C)C)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7148,"CC(C)[O-:1].CC[CH2:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1974,"CCOC(=O)CC[C:1](C[O:2][C:3]1=[CH:4]C(C)=C2C=CC=CC2=C1OC)=[OH+:5].O=S(=O)([O-])C(F)(F)F|(2, 3);((3, 4), 1);((1, 5), 5)"
train,pmechdb_split_0,0,965,"COC(=O)C1=C2CCC=CC[N+:1]2=[CH:2]CC1.C[Si](C)(C)C[C:3]#[CH:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,809,"CCCO.CCCO[C:1](CC([NH3+])C1=CC=CC=C1)([OH2+:2])[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2633,"CC(=O)[O:1][H:2].CP(C)(C)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3330,"C[CH:1]=[N+:2](C)C.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9331,"CCCCOC([O-])([N+]1=CC=C(N(C)C)C=C1)[N+:1]1([H:2])CCN(C2=CN=C(NC3=NC4=C(C=N3)C(C)=C(C(C)=O)C(=O)N4C3CCCC3)C=C2)CC1.CN(C)C1=CC=[N:3]C=C1.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1867,"CC(=O)C1=CO[CH:1]=[CH:2]1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4762,"CCO[C:1](C1=CC=CC=C1)([O-:2])[O:3]C(=O)CC(=O)CC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5083,"CCC=[CH:1][Mg:2][Br].COC(=O)[CH:3]=[N:4][C:5](OCC1=CC=CC=C1)=[O:6]|((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,6910,"CCC1CC[C:1](C)=[CH:2]1.[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,162,"CCC[C:1]#[C:2]CC(CC(C)C)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((1, 2), 4);((4, 3), 3)"
